US07253158B2
2-[[(1,1-Dimethylethoxy)carbonyl]amino]-3,3-dimethyl-4-pentenoic acid (322 mg, 1.32 mmol; Synthesis see Bartlett, Paul A.; Barstow, James F. Journal of Organic Chemistry (1982), 47(20), 3933-41) was dissolved in dimethylformamide (6 ml) and activated with the coupling reagent TATU (469 mg, 1.46 mmol) and Hünig's base (376 mg, 2.91 mmol) for 2 min. Allyl-(2,4-dimethoxy-benzyl)-amine (274 mg, 1.32 mmol) dissolved in dimethylformamide (2 ml) was added and the mixture was stirred overnight. The solvent was evaporated and the residue was dissolved in ethyl acetate, washed with saturated NaHCO3 solution, 1 M KHSO4 solution and brine. After drying with magnesiumsulfate the organic layer was concentrated and purified by flash chromatography (heptane/ethyl acetate=2:1) to yield 510 mg (89%) of {1-[allyl-(2,4-dimethoxy-benzyl)-carbamoyl]-2,2-dimethyl-but-3-enyl}-carbamic acid tert-butyl ester; MS: m/e=433.6 (MH+), 450.6 (M+NH4+).

reactant | 2-[[(1,1-Dimethylethoxy)carbonyl]amino]-3,3-dimethyl-4-pentenoic acid | 1.32 mmol, 322 mg | CC(C)(OC(=O)NC(C(=O)O)C(C=C)(C)C)C | C12H21NO4
reactant | TATU | 1.46 mmol, 469 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.[B-](F)(F)(F)F
reactant | Hünig's base | 2.91 mmol, 376 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Allyl-(2,4-dimethoxy-benzyl)-amine | 1.32 mmol, 274 mg | C(C=C)NCC1=C(C=C(C=C1)OC)OC | C12H17NO2
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | {1-[allyl-(2,4-dimethoxy-benzyl)-carbamoyl]-2,2-dimethyl-but-3-enyl}-carbamic acid tert-butyl ester | 510 mg, 89% | C(C)(C)(C)OC(NC(C(C=C)(C)C)C(N(CC1=C(C=C(C=C1)OC)OC)CC=C)=O)=O | C24H36N2O5
